US04018780
To a solution of 0.6 g. of methyl 5-bromo-1-hydroxy[1]benzothieno[3,2-f]quinoline-3-carboxylate-7-oxide in glacial acetic acid is added excess 30 percent hydrogen peroxide. The mixture is heated to its reflux temperature and maintained at reflux for one hour, then allowed to cool. The precipitate is separated by filtration to give methyl 5-bromo-1-hydroxy[1]-benzothieno[3,2-f]quinoline-3-carboxylate-7,7-dioxide, crude m.p. 240°-260° C. Infrared spectral analysis is consistent with the assigned structure. This ester is hydrolyzed using the method of Example 32 (or 33) to provide 5-bromo-1-hydroxy[1]-benzothieno[3,2-f]quinoline-3-carboxylic acid-7,7-dioxide, m.p. 283°-285° C. (dec.). Analysis: Calculated for C16H8BrNO4S. 3/4 H2O: %C, 45.8; %H, 2.3; %N, 3.4; Found: %C, 46.1; %H, 2.2; %N, 3.4.

reactant | methyl 5-bromo-1-hydroxy[1]benzothieno[3,2-f]quinoline-3-carboxylate-7-oxide | BrC1=CC2=C(C=3C(=CC(=NC13)C(=O)OC)O)C1=C(S2=O)C=CC=C1 | C17H10BrNO4S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 5-bromo-1-hydroxy[1]-benzothieno[3,2-f]quinoline-3-carboxylate-7,7-dioxide | BrC1=CC2=C(C=3C(=CC(=NC13)C(=O)OC)O)C1=C(S2(=O)=O)C=CC=C1 | C17H10BrNO5S
